### PR TITLE
[Merged by Bors] - feat(SimpleGraph): add `SimpleGraph.HomClass`

### PR DESCRIPTION
**Pull request by vlad902**
Inspired by [this PR review feedback.](https://github.com/leanprover-community/mathlib4/pull/30129#discussion_r2530032044)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by YaelDillies — COMMENTED** [review]
Could you also add `EmbeddingClass` and `IsoClass`?

File: Mathlib/Order/RelIso/Basic.lean [hunk 1]
```diff
@@ -204,15 +220,13 @@ def toRelHom (f : r ↪r s) : r →r s where
...
 instance : FunLike (r ↪r s) α β where
   coe x := x.toFun
   coe_injective' f g h := by
     rcases f with ⟨⟨⟩⟩
     rcases g with ⟨⟨⟩⟩
     congr
 
--- TODO: define and instantiate a `RelEmbeddingClass` when `EmbeddingLike` is defined
 instance : RelHomClass (r ↪r s) r s where
   map_rel f _ _ := Iff.mpr (map_rel_iff' f)
```
Comment (YaelDillies) [inline Mathlib/Order/RelIso/Basic.lean:215]:
```suggestion
instance : RelEmbeddingClass (r ↪r s) r s where
  map_rel_iff f _ _ := map_rel_iff' f |>.symm
```
then you can get rid of your other instance lower down

File: Mathlib/Order/RelIso/Basic.lean [hunk 2]
```diff
@@ -544,12 +576,10 @@ theorem toEquiv_injective : Injective (toEquiv : r ≃r s → α ≃ β)
...
   ⟨toRelEmbedding⟩
 
--- TODO: define and instantiate a `RelIsoClass` when `EquivLike` is defined
 instance : FunLike (r ≃r s) α β where
   coe x := x
   coe_injective' := Equiv.coe_fn_injective.comp toEquiv_injective
 
--- TODO: define and instantiate a `RelIsoClass` when `EquivLike` is defined
 instance : RelHomClass (r ≃r s) r s where
   map_rel f _ _ := Iff.mpr (map_rel_iff' f)
```
Comment (YaelDillies) [inline Mathlib/Order/RelIso/Basic.lean:550]: Similarly,
```suggestion
instance : RelEmbeddingClass (r ≃r s) r s where
  map_rel_iff f _ _ := map_rel_iff' f |>.symm
```

File: Mathlib/Order/RelIso/Basic.lean (hunk 1 above)
Comment (vlad902) [reply Mathlib/Order/RelIso/Basic.lean:215]: This means there's no way to go from a RelEmbeddingClass to a RelHomClass though (and this causes a build failure in Mathlib/Order/Hom/Basic.lean:577)

Comment (vlad902) [reply Mathlib/Order/RelIso/Basic.lean:215]: That line of code is https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Hom/Basic.html#OrderEmbedding.monotone

Comment (YaelDillies) [reply Mathlib/Order/RelIso/Basic.lean:215]: > This means there's no way to go from a RelEmbeddingClass to a RelHomClass though (and this causes a build failure in Mathlib/Order/Hom/Basic.lean:577)

You should add that instance (with `(priority := 100)`)

**Review by YaelDillies — COMMENTED** [review]
Sorry, I just remembered we decided against the `FooIsoClass` design which I have asked you to follow! One should now instead use `FooHomClass` + `EquivLike`. Could you please revert to introducing only `SimpleGraph.HomClass`? Feel free to keep on removing the TODOs about `RelEmbeddingClass` and `RelIsoClass`: we don't want to introduce them anymore.

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 3]
```diff
@@ -257,6 +257,10 @@ abbrev Iso :=
 @[inherit_doc] infixl:50 " ↪g " => Embedding
 @[inherit_doc] infixl:50 " ≃g " => Iso
 
+/-- `HomClass F G H` asserts that `F` is a type of adjacency-preserving morphism. -/
+abbrev HomClass  (F : Type*) (G : SimpleGraph V) (H : SimpleGraph W) [FunLike F V W] :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
abbrev HomClass (F : Type*) (G : SimpleGraph V) (H : SimpleGraph W) [FunLike F V W] :=
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by YaelDillies** [comment]
They have become redundant

**Review by j-loreaux — COMMENTED** [review]
bors merge
